data/rdb19/train.csv
rxn,smiles,ea
3689,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23][c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:37])([H:10])[H:11])([H:7])([H:8])[H:9],27.17393778183032
566,[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1][H:2]>>[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][C:8](=[O:9])[C:10]([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1]([H:2])[H:20],9.222366318863353
3385,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14]([C:15]([H:16])=[N:17][C:18](=[O:19])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:8])([H:9])[H:25])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],37.64904469146859
4044,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[C:24]([O:23][C:21]([C:20]([H:26])([H:27])[H:28])=[O:22])([C:25]([H:30])[H:31])[H:29])([H:11])([H:12])[H:13],17.328983236977365
986,[C:14]([C:15]([C:16]([C:17]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:19]([H:31])([H:32])[H:33])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([C:16]([C:17]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:19]([H:31])([H:32])[H:33])([H:23])[H:24])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([H:5])[H:22])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],21.32189345901133
3430,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17](=[C:18]([N:19]([C:20]=[O:21])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:26])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],17.964793979132082
2795,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([H:27])([H:28])[H:29].[H:15][C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31],86.62754145113286
1154,[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:17]([O:16][C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])([O:18])[C:19](=[C:20]([H:27])[H:28])[H:26],56.5832822007942
2175,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2]([O:3][H:21])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],30.108389050583355
1752,[C:15]([C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],22.31376736622769
5025,[C:11]([C:12]([C:13]([H:14])([H:15])[H:25])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])([H:22])([H:23])[H:24].[C:1]([O:2][H:25])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:9])[H:10])[H:8],79.19559588929405
